US04192880
Preparation of 2-(5-butylpyridin-2-yl) benzimidazole
0.6 g. of o-phenylenediamine, 1 g. of fusaric acid and 10 g. of polyphosphoric acid were heated at 200°-250° C. under nitrogen gas current with stirring for 1.5 hours. The reaction mixture was diluted with 200 ml. of water and then neutralized with sodium carbonate. The resulting crystals were filtered off, dried and recrystallized from ethyl acetate. 1.2 g. of colorless needles of the product (86% of theory) was obtained. M.P. 138.0°-139.0° C.

reactant | o-phenylenediamine | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | fusaric acid | CCCCC=1C=CC(=NC1)C(=O)O | C10H13NO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
product | 2-(5-butylpyridin-2-yl) benzimidazole | C(CCC)C=1C=CC(=NC1)C=1NC2=C(N1)C=CC=C2 | C16H17N3
